US05770614
Synthesis of (E)-2-[2-(3,5-dimethylphenoxy)phenyl]-2-methoxyimino-N-methylacetamide
2-[2-(3,5-dimethylphenoxy)phenyl]-2-oxo-N-methyl-acetamide (2.58 g) and methoxylamine hydrochloride (1.52 g) were dissolved in methanol (50 ml), and the mixture was heated under reflux with stirring overnight. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried, and then the solvent was evaporated. The resulting oil was purified by column chromatography on silica gel to give the title compound (1.96 g). mp. 90°-91° C.

reactant | 2-[2-(3,5-dimethylphenoxy)phenyl]-2-oxo-N-methyl-acetamide | 2.58 g | CC=1C=C(OC2=C(C=CC=C2)C(C(=O)NC)=O)C=C(C1)C | C17H17NO3
reactant | methoxylamine hydrochloride | 1.52 g | Cl.O(C)N
reactant | Water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | (E)-2-[2-(3,5-dimethylphenoxy)phenyl]-2-methoxyimino-N-methylacetamide | 1.96 g | CC=1C=C(OC2=C(C=CC=C2)\C(\C(=O)NC)=N/OC)C=C(C1)C | C18H20N2O3
